US07423031B2
To a solution of 5-[(5-fluoro-3-iodo-1H-indole-2-carbonyl)-amino]-pent-2-enoic acid ethyl ester, prepared as in reference 14, (4.15 g, 9.65 mmol) in MeCN (100 mL) is added DMAP (2.59 g, 21.2 mmol) and di-tert-butyl dicarbonate (6.33 g, 28.9 mmol). The reaction is stirred at room temperature overnight. It is concentrated and EtOAc (100 mL) is added. It is washed with NaHSO4 (2M, 100 mL) and brine (100 mL). The organic layer is dried, concentrated and purified by silica gel column chromatography and eluted with EtOAc-Hexanes to give 2-[tert-butoxycarbonyl-(4-ethoxycarbonyl-but-3-enyl)-aminocarbonyl]-5-fluoro-3-iodo-indole-1-carboxylic acid tert-butyl ester; 1H NMR (CDCl3) δ 1.29 (t, 3H, J=7.2 Hz), 1.54 (s, 9H), 1.60 (s, 9H), 2.71 (q, 2H, J=7.2 Hz), 3.86-3.94 (m, 1H), 4.16-4.21 (m, 1H), 4.19 (q, 2H, J=7.2 Hz), 5.99 (d, 1H, J=15.6 Hz), 6.98-7.14 (m, 3H), 8.06 (dd, 1H, J1=4.4 Hz, J2=8.8 Hz); m/z [M++Na] 653.1.

reactant | 5-[(5-fluoro-3-iodo-1H-indole-2-carbonyl)-amino]-pent-2-enoic acid ethyl ester | C(C)OC(C=CCCNC(=O)C=1NC2=CC=C(C=C2C1I)F)=O | C16H16FIN2O3
reactant | di-tert-butyl dicarbonate | 28.9 mmol, 6.33 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeCN | 100 mL | CC#N | C2H3N
catalyst | DMAP | 21.2 mmol, 2.59 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-[tert-butoxycarbonyl-(4-ethoxycarbonyl-but-3-enyl)-aminocarbonyl]-5-fluoro-3-iodo-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=C(C2=CC(=CC=C12)F)I)C(=O)N(CCC=CC(=O)OCC)C(=O)OC(C)(C)C | C26H32FIN2O7
